* NGSPICE file created from OPAMP_AS_COMPARATOR.ext - technology: sky130A

.subckt OPAMP_AS_COMPARATOR
X0 w_1032_1512# a_230_2352# a_230_2352# w_1032_1512# sky130_fd_pr__pfet_01v8 ad=0.147 pd=1.33 as=0.147 ps=1.33 w=1.05 l=0.15
X1 a_746_2352# a_230_2352# w_1032_1512# w_1032_1512# sky130_fd_pr__pfet_01v8 ad=0.147 pd=1.33 as=0.147 ps=1.33 w=1.05 l=0.15
X2 a_147_2352# a_716_561# a_147_2352# a_147_2352# sky130_fd_pr__nfet_01v8 ad=2.814 pd=26.36 as=0.147 ps=1.33 w=1.05 l=0.15
X3 a_716_561# a_716_561# a_147_2352# a_147_2352# sky130_fd_pr__nfet_01v8 ad=0.147 pd=1.33 as=0.147 ps=1.33 w=1.05 l=0.15
X4 a_746_2352# a_716_2073# a_147_2352# a_147_2352# sky130_fd_pr__nfet_01v8 ad=0.147 pd=1.33 as=0.27825 ps=2.63 w=1.05 l=0.15
X5 a_230_2352# a_230_2352# w_1032_1512# w_1032_1512# sky130_fd_pr__pfet_01v8 ad=0.147 pd=1.33 as=0.27825 ps=2.63 w=1.05 l=0.15
X6 a_230_2352# a_200_2073# a_147_2352# a_147_2352# sky130_fd_pr__nfet_01v8 ad=0.147 pd=1.33 as=0.27825 ps=2.63 w=1.05 l=0.15
X7 a_147_2352# a_716_2073# a_746_2352# a_147_2352# sky130_fd_pr__nfet_01v8 ad=0.27825 pd=2.63 as=0.147 ps=1.33 w=1.05 l=0.15
X8 a_147_2352# a_200_2073# a_230_2352# a_147_2352# sky130_fd_pr__nfet_01v8 ad=0.27825 pd=2.63 as=0.147 ps=1.33 w=1.05 l=0.15
X9 a_147_2352# a_716_561# a_716_561# a_147_2352# sky130_fd_pr__nfet_01v8 ad=0.27825 pd=2.63 as=0.147 ps=1.33 w=1.05 l=0.15
X10 w_1032_1512# a_230_2352# a_746_2352# w_1032_1512# sky130_fd_pr__pfet_01v8 ad=0.27825 pd=2.63 as=0.147 ps=1.33 w=1.05 l=0.15
X11 a_1434_840# a_746_2352# w_1032_1512# w_1032_1512# sky130_fd_pr__pfet_01v8 ad=0.147 pd=1.33 as=0.27825 ps=2.63 w=1.05 l=0.15
X12 w_1032_1512# a_746_2352# a_1434_840# w_1032_1512# sky130_fd_pr__pfet_01v8 ad=0.27825 pd=2.63 as=0.147 ps=1.33 w=1.05 l=0.15
X13 a_147_2352# a_716_561# a_1434_840# a_147_2352# sky130_fd_pr__nfet_01v8 ad=0.27825 pd=2.63 as=0.147 ps=1.33 w=1.05 l=0.15
X14 a_1434_840# a_716_561# a_147_2352# a_147_2352# sky130_fd_pr__nfet_01v8 ad=0.147 pd=1.33 as=0.27825 ps=2.63 w=1.05 l=0.15
X15 a_716_561# a_716_561# w_1032_1512# w_1032_1512# sky130_fd_pr__pfet_01v8 ad=0.147 pd=1.33 as=0.27825 ps=2.63 w=1.05 l=0.15
X16 a_147_2352# a_716_561# a_147_2352# a_147_2352# sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=0.27825 ps=2.63 w=1.05 l=0.15
X17 w_1032_1512# a_716_561# a_716_561# w_1032_1512# sky130_fd_pr__pfet_01v8 ad=0.27825 pd=2.63 as=0.147 ps=1.33 w=1.05 l=0.15
C0 a_1434_840# a_716_561# 0.23fF
C1 w_1032_1512# a_716_561# 2.33fF
C2 w_1032_1512# a_1434_840# 1.15fF
C3 w_1032_1512# a_200_2073# 0.00fF
C4 a_230_2352# a_746_2352# 0.67fF
C5 a_716_2073# a_746_2352# 0.12fF
C6 a_716_561# a_746_2352# 0.01fF
C7 a_1434_840# a_746_2352# 0.10fF
C8 w_1032_1512# a_746_2352# 2.70fF
C9 a_200_2073# a_746_2352# 0.00fF
C10 a_716_2073# a_230_2352# 0.06fF
C11 a_230_2352# a_716_561# 0.01fF
C12 a_716_2073# a_716_561# 0.01fF
C13 a_230_2352# a_1434_840# 0.00fF
C14 w_1032_1512# a_230_2352# 2.65fF
C15 w_1032_1512# a_716_2073# 0.04fF
C16 a_200_2073# a_230_2352# 0.12fF
C17 a_200_2073# a_716_2073# 0.04fF
C18 a_716_561# a_147_2352# 3.12fF
C19 a_1434_840# a_147_2352# 0.37fF
C20 a_746_2352# a_147_2352# 0.48fF
C21 a_230_2352# a_147_2352# 1.15fF
C22 a_716_2073# a_147_2352# 0.80fF
C23 a_200_2073# a_147_2352# 0.82fF
C24 w_1032_1512# a_147_2352# 7.65fF
.ends

